US06844345B2
a) (R)-7,8-Dichloro-4-methyl-1,2,3,4-tetrahydro-pyrazino[1,2-a]indole hydrochloride
(R)-7,8-Dichloro-4-methyl-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one was suspended in toluene and the mixture heated to reflux to remove traces of water. The mixture was cooled to 0° C. (ice-bath) before the addition, via syringe, of borane in tetrahydrofuran. The mixture was stirred 15 min at 0° C., and heated to reflux. After 4 h, the mixture was cooled and excess borane destroyed by the slow addition of a 10% sodium carbonate solution (10 ml). The phases were separated, the aqueous phase extracted with ethyl acetate (2×25 ml), the combined organic phases washed with brine, dried over magnesium sulfate and evaporated. The resulting oil was dissolved in ethyl acetate (5 ml) and a solution of HCl in ethyl acetate added dropwise. The product precipitated out of solution after a short while. It was filtered, washed with a small amount of ethyl acetate and dried to afford the title compound as a white solid (yield 65%).ISP-MS: m/e 255.0 ([M+H]+).

reactant | (R)-7,8-Dichloro-4-methyl-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one | ClC=1C(=CC=2C=C3N(C2C1)[C@@H](CNC3=O)C)Cl | C12H10Cl2N2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (R)-7,8-Dichloro-4-methyl-1,2,3,4-tetrahydro-pyrazino[1,2-a]indole hydrochloride | yield 65% | Cl.ClC=1C(=CC=2C=C3N(C2C1)[C@@H](CNC3)C)Cl | InChI=1S/C12H12Cl2N2.ClH/c1-7-5-15-6-9-2-8-3-10(13)11(14)4-12(8)16(7)9;/h2-4,7,15H,5-6H2,1H3;1H/t7-;/m1./s1
